US07410976B2
3-{1′-[(1-cyclopropyl-5-methoxyisoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}benzoic acid
3-{1′-[(1-Cyclopropyl-5-methoxy-isoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}benzoic acid methyl ester (2.00 g, 3.47 mmol) was dissolved in MeOH (20 mL), THF (10 mL) and 1N NaOH aq. (6 mL) was added thereto. After stirred at room temperature for 3 days, the reaction mixture was diluted with CHCl3, MeOH and 1N HCl aq. (6 mL). The aqueous layer was extracted with CHCl3 and the combined organic layer was dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/EtOAc=5/5 to 0/10, then CHCl3/MeOH=10/0 to 88/12) to obtain the intended compound as a colorless solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.36 (1.0H, d, J=5.9 Hz), 8.13 (1.0H, s), 8.07 (1.0H, s), 7.99-7.94 (2.0H, m), 7.93-7.85 (2.0H, m), 7.74 (1.0H, d, J=5.9 Hz), 7.60-7.53 (1.0H, m), 7.23 (1.0H, d, J=9.0 Hz), 7.19 (1.0H, s), 4.43-4.25 (1.0H, br m), 4.01 (3.0H, s), 3.67-3.13 (3.0H, m), 2.98-2.87 (1.0H, m), 2.95 (2.0H, s), 2.18-2.05 (1.0H, br m), 2.00-1.78 (3.0H, m), 1.16-1.01 (4.0H, m). MS [M+H]+=563.

reactant | 3-{1′-[(1-Cyclopropyl-5-methoxy-isoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}benzoic acid methyl ester | 3.47 mmol, 2.00 g | COC(C1=CC(=CC=C1)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=CC(=C4C=CN=C(C4=C3)C3CC3)OC)OC2=CC1)=O)=O | C35H32N2O6
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 6 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | HCl | 1N, 6 mL | Cl | ClH
product | 3-{1′-[(1-cyclopropyl-5-methoxyisoquinolin-7-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}benzoic acid | C1(CC1)C1=NC=CC2=C(C=C(C=C12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C=2C=C(C(=O)O)C=CC2)OC | C34H30N2O6
